US07378409B2
The entirety of N-(2-((1S,2R,4R)-4-amino-2-((S)-1-hydroxy-2-methylpropyl)cyclohexylamino)-2-oxoethyl)-3-(trifluoromethyl)benzamide te prepared in previous Step (1 eq) in CH2Cl2 (20 mL). The resultant solution was charged with acetone (10 eq) and stirred at RT for 10 min before sodium cyanoborohydride (2 eq) was added in one portion. The reaction was stirred at RT for 10 h and then charged successively with formaldehyde (10 eq in 37 wt % aq soln) and sodium cyanoborohydride (2 eq). The reaction was stirred for another 9 h at RT and then quenched with sat. NaHCO3. The aqueous mixture was extracted with EtOAc (40 mL, then 2×40 mL). The organic extracts were combined, washed with brine (30 mL), dried (MgSO4), filtered, and concentrated in vacuo. After the resulting oil stood, some paraformaldehyde-related products solidified; these were removed by dissolving the mixture in a minimal volume of EtOAc and filtering. Subsequent concentration provided N-(2-((1S,2R,4R)-2-((S)-1-hydroxy-2-methylpropyl)-4-(isopropyl(methyl)amino)cyclohexylamino)-2-oxoethyl)-3-(trifluoromethyl)benzamide. MS found: (M+H)+=472.

reactant | N-(2-((1S,2R,4R)-4-amino-2-((S)-1-hydroxy-2-methylpropyl)cyclohexylamino)-2-oxoethyl)-3-(trifluoromethyl)benzamide | N[C@H]1C[C@H]([C@H](CC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O)[C@H](C(C)C)O | C20H28F3N3O3
reactant | acetone | 10 eq | CC(=O)C | C3H6O
reactant | sodium cyanoborohydride | 2 eq | C(#N)[BH3-].[Na+]
reactant | formaldehyde | 10 eq | C=O | CH2O
reactant | sodium cyanoborohydride | 2 eq | C(#N)[BH3-].[Na+]
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | N-(2-((1S,2R,4R)-2-((S)-1-hydroxy-2-methylpropyl)-4-(isopropyl(methyl)amino)cyclohexylamino)-2-oxoethyl)-3-(trifluoromethyl)benzamide | O[C@@H](C(C)C)[C@H]1[C@H](CC[C@H](C1)N(C)C(C)C)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C24H36F3N3O3
